US07595312B2
10.72b (S)-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-1-(4-piperazin-1-yl-piperidin-1-yl)-butan-1,4-dione
100 mg Raney nickel were added to a solution of 250 mg (0.30 mmol) benzyl 4-(1-{(S)-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-4-oxo-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butyryl}-piperidin-4-yl)-piperazin-1-carboxylate in 30 mL MeOH and the reaction mixture was stirred for 5 h at RT and 50 psi H2. To complete the reaction another 100 mg of Raney nickel were added and the mixture was stirred for a further 10 h at RT. The catalyst was suction filtered, the solvent eliminated i. vac. and the residue purified by HPLC.

reactant | benzyl 4-(1-{(S)-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-4-oxo-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butyryl}-piperidin-4-yl)-piperazin-1-carboxylate | 0.30 mmol, 250 mg | NC1=C(C=C(C[C@H](C(=O)N2CCC(CC2)N2CCN(CC2)C(=O)OCC2=CC=CC=C2)CC(N2CCC(CC2)N2C(NC3=C(CC2)C=CC=C3)=O)=O)C=C1C(F)(F)F)Cl | C43H51ClF3N7O5
catalyst | Raney nickel | 100 mg | [Ni] | Ni
solvent | MeOH | 30 mL | CO | CH4O
catalyst | Raney nickel | 100 mg | [Ni] | Ni
product | (S)-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-1-(4-piperazin-1-yl-piperidin-1-yl)-butan-1,4-dione | NC1=C(C=C(C[C@H](C(=O)N2CCC(CC2)N2CCNCC2)CC(=O)N2CCC(CC2)N2C(NC3=C(CC2)C=CC=C3)=O)C=C1C(F)(F)F)Cl | C35H45ClF3N7O3
